US08168787B2
4-methyl-N3-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine 8
Under inert atmosphere, 16 g sodium salt of β-oxo-3-pyridinepropanal, with HPLC purity of 99% (A %) and 25% salt content (residue by calcination), and 11.7 g (2-methyl-5-aminophenyl)guanidine in 115 mL n-butanol is suspended. 9 mL acetic acid is added, and the mixture is stirred at room temperature for an hour. 6 g potassium hydroxide is added portionwise, and the mixture is refluxed for 18 hours, removing the water with a Dean Stark apparatus. Once completed the conversion, the suspension is cooled and the organic layer is washed with water. The organic layer is concentrated to a small volume, and toluene is added. The precipitate is filtrated, yielding, upon drying, 15.5 g of product with HPLC purity of 99.2% (A %), identified through LC-MS and 1H-NMR.

reactant | sodium | 16 g | [Na] | Na
reactant | β-oxo-3-pyridinepropanal | O=C(CC=O)C=1C=NC=CC1 | C8H7NO2
reactant | (2-methyl-5-aminophenyl)guanidine | 11.7 g | CC1=C(C=C(C=C1)N)NC(=N)N | C8H12N4
reactant | potassium hydroxide | 6 g | [OH-].[K+]
solvent | n-butanol | 115 mL | C(CCC)O | C4H10O
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
product | 4-methyl-N3-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine | CC1=C(C=C(C=C1)N)NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H15N5
